US04758263
To a cooled solution (0°-5° C./-15° C. with CO2 /acetone/water) of conc. sulfuric acid (600 ml) and 90% nitric acid (330 ml) in a three-necked flask equipped with a mechanical stirrer and thermometer was added 1,4-difluorobenzene dropwise (300 g., 2.63 moles) over 2.5 hours. After an additional 30 min. stirring, the mixture was carefully poured into ice and extracted with ethyl ether (3×600 ml). The organic layers were washed with brine, water, 5% sodium bicarbonate solution, dried over (Na2SO4) and evaporated in vacuo. The orange liquid was distilled under vacuum to obtain 1,4-difluoro-2-nitrobenzene, b.p. 102°-105° C. at 30 torr.

reactant | sulfuric acid | 600 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1,4-difluorobenzene | FC1=CC=C(C=C1)F | C6H4F2
reactant | nitric acid | 330 ml | [N+](=O)(O)[O-] | HNO3
product | 1,4-difluoro-2-nitrobenzene | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
